US04310538
Benzyl 3-chloro-1azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate (28 mg) in methanol (2.5 ml) and water (0.5 ml) containing sodium bicarbonate (8.5 ml) is hydrogenated with 10% palladium on powdered charcoal (30 mg) at 40 psi for 30 minutes. The mixture is filtered and the catalyst is washed with water (5 ml). The combined filtrate is concentrated in vacuo to 1/2 its volume, washed with ethylacetate, and lyophilized to provide sodium 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Benzyl 3-chloro-1azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | 28 mg | ClC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C14H12ClNO3
reactant | sodium bicarbonate | 8.5 ml | C([O-])(O)=O.[Na+]
reactant | charcoal | 30 mg | C | CH4
solvent | methanol | 2.5 ml | CO | CH4O
solvent | water | 0.5 ml | O | H2O
catalyst | palladium | [Pd] | Pd
product | sodium 3-chloro-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | ClC1=C(N2C(CC2C1)=O)C(=O)[O-].[Na+] | InChI=1S/C7H6ClNO3.Na/c8-4-1-3-2-5(10)9(3)6(4)7(11)12;/h3H,1-2H2,(H,11,12);/q;+1/p-1
